US07732435B2
3-(4-Chlorophenyl)-2-isopropyl-4-oxo-9,10-dihydro-4H,8H-1,11-dioxa-7-aza-cyclohepta[a]naphthalene-7-carbaldehyde
A stirred mixture of N-[3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-4-oxo-4H-chromen-7-yl]formamide (0.122 g, 0.34 mmol), cesium carbonate (0.444 g, 1.36 mmol, 4 eq.) and 1,3-dibromopropane (0.069 g, 0.34 mmol) in anhydrous N,N-dimethylformamide (3 ml) is heated at 60° C. under a nitrogen atmosphere for 2 h. The mixture is cooled to room temperature and filtered through Celite filter aid. The pad of Celite is washed with ethyl acetate and methylene chloride, and the combined filtrates are evaporated in vacuo to afford a brown solid. This is purified by flash chromatography (cyclohexane/ethyl acetate=9:1 to 4:1) to furnish the title compound as a yellow solid.

reactant | N-[3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-4-oxo-4H-chromen-7-yl]formamide | 0.34 mmol, 0.122 g | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)NC=O)O)C(C)C | C19H16ClNO4
reactant | cesium carbonate | 1.36 mmol, 0.444 g, 4 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-dibromopropane | 0.34 mmol, 0.069 g | BrCCCBr | C3H6Br2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(4-Chlorophenyl)-2-isopropyl-4-oxo-9,10-dihydro-4H,8H-1,11-dioxa-7-aza-cyclohepta[a]naphthalene-7-carbaldehyde | ClC1=CC=C(C=C1)C=1C(C=2C=CC3=C(C2OC1C(C)C)OCCCN3C=O)=O | C22H20ClNO4
